US07858640B2
(4-chloromethylphenyl)pyrrolidin-1-ylmethanone
A solution of 4-chloromethylbenzoyl chloride (5.0 g) and pyrrolidine (2.2 mL) in dichloromethane (30 mL) at 0° C. was treated with ethyldiisopropylamine (5.2 mL). The resulting mixture was warmed to room temperature over 1 hour and then stirred at this temperature for 2 hours. The mixture was diluted with 1.0 M aqueous hydrochloric acid, extracted with dichloromethane and the combined extracts washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound, 6.0 g.

reactant | 4-chloromethylbenzoyl chloride | 5.0 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | pyrrolidine | 2.2 mL | N1CCCC1 | C4H9N
reactant | ethyldiisopropylamine | 5.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1.0 M | Cl | ClH
product | (4-chloromethylphenyl)pyrrolidin-1-ylmethanone | ClCC1=CC=C(C=C1)C(=O)N1CCCC1 | C12H14ClNO
